datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:10])[H:14])([H:7])([H:8])[H:9],114.265
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:16])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[H:17])[H:15])([H:13])[H:14],32.2168
[C:1]([C:2]([C:3]1([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[c:15]2[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]21)([H:27])[H:28])([H:29])([H:30])[H:31].[H:32]>>[C:1]([C:2]([C:3]1([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]2[C:17]([H:18])=[C:19]([H:20])[C:21]([H:22])=[C:23]([H:24])[C:25]12[H:32])([H:27])[H:28])([H:29])([H:30])[H:31],2.8054
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[S:10]=[C:11]([C:12]([S:13][H:16])[H:15])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:12]([C:11](=[S:10])[H:14])([S:13][H:16])[H:15],83.68
[C:0](=[C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:9])[H:8].[H:15]>>[C:0](=[C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:9])([H:8])[H:15],10.0605
[H:0].[c:1]1[c:2]([H:7])[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]1[H:11]>>[H:0][c:1]1[c:2]([H:7])[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]1[H:11],0.0
[C:0]([C:1](=[C:2]([H:9])[H:10])[C:3]([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([H:13])[H:14])([H:11])[H:12])([H:7])[H:8]>>[C:0]([C:1](=[C:2]([H:9])[H:10])[C:3]([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[H:14])([H:11])[H:12])([H:7])([H:8])[H:13],105.8552
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[O:11][H:12]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][O:11][H:12],-4.74047
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([S:9][H:13])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[S:9][H:13])([H:3])[H:4].[C:8]([H:10])([H:11])[H:12],18.828
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6],35.1038
[C:0]([H:1])([H:2])[H:3].[N:4]([N:5]([H:7])[H:8])[H:6]>>[C:0]([H:1])([H:2])([H:3])[N:4]([N:5]([H:7])[H:8])[H:6],3.359752
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13]([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:9])[C:13]([H:14])([H:15])[H:16])[H:8])[H:7])([H:5])[H:6],16.736
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[S:7]([C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])([H:16])[H:17])[H:15]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:16])[H:4].[S:7]([C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])[H:17])[H:15],17.1544
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])[H:17])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]1([C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])[H:17])[H:16],17.1544
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19](=[C:20]([C:21]([C:22]([H:28])([H:29])[H:30])[C:23](=[C:24]([H:32])[H:33])[H:31])[H:27])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[C:21]([C:20](=[C:19]([H:25])[H:26])[H:27])([C:22]([H:28])([H:29])[H:30])[C:23](=[C:24]([H:32])[H:33])[H:31])[H:9])([H:7])[H:8],75.6467
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](=[C:9][C:10](=[S:11])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:9](=[C:8]([H:12])[H:13])[C:10](=[S:11])[H:14],54.8104
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[c:20]1[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]1[H:36])([H:26])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])([H:10])[C:18]([C:17]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[c:20]1[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]1[H:36])[H:9])([H:7])[H:8],26.2337
